US05480873
Ethyl 9-fluoro-4,6,10-trimethoxyanthracene-2-carboxylate
Ethyl 4-hydroxy-6,10-dimethoxy-9-fluoroanthracene-2-carboxylate (4 g) was dissolved in acetonitrile. Potassium carbonate (2.5 g) and iodomethane (3 g) were added. The mixture was heated under reflux with vigorous stirring under nitrogen for 2 hours. The solution was filtered to remove solids and washed with water. The organic phase was washed, dried (MgSO4), filtered and concentrated to give the above compound as a yellow solid.

reactant | Ethyl 4-hydroxy-6,10-dimethoxy-9-fluoroanthracene-2-carboxylate | 4 g | OC1=CC(=CC2=C(C3=CC=C(C=C3C(=C12)OC)OC)F)C(=O)OCC | C19H17FO5
reactant | Potassium carbonate | 2.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 3 g | IC | CH3I
solvent | acetonitrile | C(C)#N | C2H3N
product | Ethyl 9-fluoro-4,6,10-trimethoxyanthracene-2-carboxylate | FC=1C2=CC=C(C=C2C(=C2C(=CC(=CC12)C(=O)OCC)OC)OC)OC | C20H19FO5
